US04468517
4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride
Ten g. of 4-chloromethyl-4-hydroxy-2-dimethylaminomethyl-2-thiazoline was dissolved in 50 ml. of 1,2-dichloroethane, and to it was added 8.6 g. of thionyl chloride dissolved in 30 ml. of 1,2-dichloroethane. The mixture was stirred at ambient temperature overnight, and then was stirred at 35° for 35 minutes and then for 1 hour at 50°. The mixture was cooled to 5° and filtered, and the solids were washed with 1,2-dichloroethane, and then were slurried in 20 ml. of methanol and 50 ml. of ethyl acetate. The crystals were then recovered by filtration and dried to obtain 6.4 g. of relatively pure product, m.p. 137°-140°. The product was identified by nmr analysis in DMSO-D6, on a 60 mHz instrument, which analysis showed characteristic features at δ3.05 (s, 6H); 4.85 (s, 2H); 4.90 (s, 2H); 7.85 (s, 1H).

reactant | 4-chloromethyl-4-hydroxy-2-dimethylaminomethyl-2-thiazoline | ClCC1(N=C(SC1)CN(C)C)O | C7H13ClN2OS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride | Cl.ClCC=1N=C(SC1)CN(C)C | InChI=1S/C7H11ClN2S.ClH/c1-10(2)4-7-9-6(3-8)5-11-7;/h5H,3-4H2,1-2H3;1H
